US07863293B2
Using General Procedure A: Reaction of (3-isopropyl-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amine, 2-bromomethyl-5-cyano-benzoic acid methyl ester, and DIPEA in CH3CN gave 5-Cyano-2-{[(3-isopropyl-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoic acid methyl ester as a yellow oil.

reactant | (3-isopropyl-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amine | C(C)(C)C=1C(=NC=CC1)CNCC1=NC=CC=C1C | C16H21N3
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | DIPEA | CCN(C(C)C)C(C)C | C8H19N
solvent | CH3CN | CC#N | C2H3N
product | 5-Cyano-2-{[(3-isopropyl-pyridin-2-ylmethyl)-(3-methyl-pyridin-2-ylmethyl)-amino]-methyl}-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CN(CC1=NC=CC=C1C)CC1=NC=CC=C1C(C)C)=O | C26H28N4O2
